Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
" I've been feeling down since my girlfriend and I broke up "
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with no past psychiatric or
medical history presenting with depressed mood, insomnia, and
suicidal ideation with plan to jump off building or jump in 
front
of a train.

Per Dr. ___ (___) ED Initial Psychiatry Consult note:

" Patient states that he has had depressed mood and feeling of
emptiness for past 3 weeks. He broke up with his girlfriend 3
weeks ago because he was feeling sad and empty. Since then, they
have been getting back together and breaking up again several
times. Patient states that this is causing him significant
distress. They have been dating for ___ years and he feels as if 
he
can't go on without her. He states, "I know I will never love
again." He endorses depressive symptoms, including hopelessness,
guilt, decreased sleep, decreased appetite. He states that he 
has
been sleeping only a few hours per night and has no appetite. 

Over the past 2 weeks, patient has had thoughts of killing
himself. He had planned to go to the roof of one of the ___
buildings and jump off. He called a suicide hotline last night
because he was feeling like he may go through with this plan, 
but
he states that no one picked up. He talked to his roommate about
this, and he made him feel a little better and stayed with him
throughout the night. This morning, patient states that he was
having serious thoughts of suicide. He texted his loved ones
goodbye messages. As he was walking to class, he crossed a T
track and stood in the middle of it as the train was coming
towards him. The driver honked and this startled him and made 
him
jump out of the way. Patient states that he had intended to die
and was upset that he got startled and moved out of the way at
the last second. Patient has history of previous suicidal
thoughts in high school when he was being bullied and stressed
out applying to college. He states that he has never had a plan
before, and has never attempted suicide. He states that in high
school when he felt sad and had thoughts of suicide, he had his
girlfriend to talk to. Now he feels alone and feels as if he may
hurt himself. He feels safe here in the emergency department and
denies any suicidal thoughts currently."

Upon arrival to the unit patient confirms the above history as
documented by Dr. ___ with the following additions: 

Patient states he feels "okay but anxious" and that he "feels
better knowing I am safe here". He reports that he has felt much
better since coming to the hospital and is beginning to feel 
like
"it is possible" to "picture a life" without his girlfriend. He
states that he is glad he is on the unit, even though he feels
somewhat anxious being here, because he doesn't feel safe at
present at home because there are "too many little memories" of
his girlfriend around his ___. He also feels better because he
has realized how many friends he has around him that support him
and make him "feel loved". Patient denies any suicidal thoughts
currently while on the unit, though still feels sad. 

He reports that the incident with the T train car was not 
something intentional. While he was walking to class on the day 
of his ER presentation, he wasn't paying attention to traffic 
and was in the t tracks as a car was approaching. The car was 
some distance away when the conductor honked at him and he 
walked out of the tracks. He states he is glad he isn't dead but 
he does feel he learned something from the experience so he 
doesn't view it as bad. 

On ROS, patient endorses depressed mood, feelings of guilt over
"letting her go", difficulty sleeping with early morning
awakenings, poor appetite, and poor concentration. He denies any
symptoms of mania such as decreased need for sleep, increased
goal-directed behavior, or grandiosity. He denies any AVH or
paranoid thoughts. Endorses feeling of anxiety but denies any
symptoms of panic. ___ medical review of systems was
negative. 

 
Past Medical History:
========================
PAST PSYCHIATRIC HISTORY
========================
No prior psychiatric history including diagnoses,
hospitalizations, treaters, medication trials, SIB, or SA's. 

====================
PAST MEDICAL HISTORY
====================
No past medical history

===========
MEDICATIONS
===========
No current medications 

=========
ALLERGIES
=========
NKDA
 
Social History:
=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: Denies
- Tobacco: Denies
- Cannabis: Denies
- Illicits: Denies

================
FORENSIC HISTORY
================
Denies history of arrests, convictions, incarceration, or active
warrants. 

==============
SOCIAL HISTORY
==============
Born and raised in ___. Grew up with mom,
grandparents, brother (___), sister (___), and stepdad. Patient's 
father is in ___ and he has no contact. His brother has ADD 
and a Seizure disorder 
He was the primary ___ speaker in his family growing up. Is 
very
close with his family and misses them. Moved to ___ to start
college at ___ where he is currently in his sophomore year as a
___ major with the hopes of going to Medical School to
become a Neuro___. Lives in a ___ with 1 other roommate.
History of being bullied in high school. Denies access to
weapons. 
 
Family History:
No family history of substance use disorders, or
suicide attempts. Brother has ADD and a seizure disorder
 
Physical Exam:
VITALS:
 Temp: 97.9 PO BP: 121/82 HR: 86 RR: 16 O2 sat: 99% (RA)

GENERAL 
- HEENT: Normocephalic, atraumatic. MMM, oropharynx clear
- Cardiovascular: RRR. Normal S1/S2. No murmurs/rubs/gallops. 
- Pulmonary: CTAB. No wheezes/rales/rhonchi 
- Abdominal: (+) BS. Non-distended. Non-tender. 
- Extremities: warm and well-perfused, no cyanosis or edema. +2
pedal pulses

- Cranial Nerves: 
     - I: olfaction not tested 
     - II: PERRL 4 to 3 mm, brisk
     - III, IV, VI: EOMI without nystagmus 
     - V: facial sensation intact to light touch in all
distributions 
     - VII: no facial droop, facial musculature symmetric 
     - VIII: hearing intact to finger rub bilaterally 
     - IX, X: palate elevates symmetrically 
     - XI: ___ strength in trapezii and SCM bilaterally 
     - XII: tongue protrudes in midline 
- Motor: Normal bulk and tone. No abnormal movement, no tremor.
Strength ___ throughout. 
- DTRs: 2+ reflexes throughout. Plantar response flexor
bilaterally

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
     - long-term grossly intact
- Fund of knowledge: consistent with education, intact to last 3
presidents
- Calculations: $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = Don't go with your
first impression, look deeper
     - apple/orange: both fruit
- Language: fluent ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS
- Appearance: man appearing stated age, well groomed, wearing
hospital gown, in no apparent distress
- Behavior: sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation, cooperative, engaged,
friendly
- Mood/Affect: "Hopeful" / dysthymic though smiles through
interview, reactive 
- Speech: normal rate, volume, and rhythm
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content: Denies SI/HI. No evidence of paranoia or 
other
delusional thought content. Denies AVH, not appearing to be
attending to internal stimuli.
- Insight/Judgement: limited

 
Pertinent Results:
- CBC: WBC: 7.1 Hgb: 16.6 Hct: 49.4 MCV: ___ 
- CHEM: Glucose: 104* UreaN: 9 Creat: 0.7 Na: 140 K: 3.6 Cl: 100
HCO3: 23 AnGap: 17 
- LFTs: ALT: 13 AST: 13 AlkPhos: 74 TotBili: 0.9 
- SERUM TOX: NEG 
- URINE TOX: NEG 
- URINALYSIS: RBC: 4* WBC: <1 Bacteri: FEW* Yeast: NONE Epi: ___. LEGAL & SAFETY: 

On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. He did not 
require physical or chemical restraints during this 
hospitalization. 

2. PSYCHIATRIC:

Upon admission, the patient reported 3 weeks of depressed mood, 
hopelessness, guilt, poor sleep, low appetite, and poor 
concentration, which occurred in the context of a break up with 
his girlfriend. He also noted 2 weeks of frequent thoughts of SI 
with plan to jump off specific ___ building to the point of 
sending goodbye messages to friend. Pt also incidentally walked 
in front of a train, with thoughts of not moving in order to end 
his life, but jumped out of the way when horn was blown by 
conductor. On arrival to unit, patient was dysphoric but 
hopeful. Patient discussed with treatment team how difficult his 
breakup was for him, and how it affected his self-esteem. 
Patient further discussed his guilt about mistakes he made in 
prior relationships (ex: not being loving enough with family), 
for which he feels responsible to "undo" his mistakes. During 
admission, he completed a Chain Analysis of Problem Behaviors 
and was introspective, increasing his insight about himself, his 
emotions, and his reactions to his emotions. He was able to 
distance himself from the despair and emptiness he felt in the 
setting of his breakup and voiced understanding that feeling 
isolated/alone/rejected can been triggers for negative emotions. 


The patient’s presentation was concerning for underlying 
adjustment disorder with depressed mood in the context of a 
breakup with his girlfriend. Strong suspicion that patient 
suffers with difficulties with emotional regulation, insecure
attachments (voices difficulties and fears of losing 
relationships), and poor distress tolerance. He identified 
multiple supports on campus that he would utilize, including 
individual therapy, a group therapy, and calling the ___ RA if 
he was in a moment of distress.

The decision was made to not to initiate psychotropic 
medications during this admission, and, instead, encourage group 
and individual therapy. Specifically, focused with patient on 
distress tolerance, identity, self-esteem, and emotion 
regulation. The patient found groups, peer/staff support, and 
individual meetings with treatment team to be helpful for his 
mood. 

At time of discharge, patient had brighter affect. His mood, 
motivation, and self-worth improved and he was able to have 
meaningful discussion about safety planning and how to work on 
his emotional states and distress tolerance. 

3. SUBSTANCE USE DISORDERS:
N/A

4. MEDICAL
N/A

5. PSYCHOSOCIAL

#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. He was often visible in the 
milieu and was appropriate in his interaction with peers and 
staff without ever requiring restraint or seclusion.

 

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient’s family was involved in the patients’ treatment and 
discharge planning, and was provided with the opportunity to 
discuss the patient’s diagnosis and treatment with the primary 
treatment team. The patient’s family was supportive of the 
patient’s treatment and aftercare plan.  

#) INTERVENTIONS
- Medications: Did not start any medications during this 
admission
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: outpatient providers and school f/u
- Behavioral Interventions: encourage DBT skills, focus on 
distress
tolerance, self-esteem, identity, and emotion regulation
- Guardianships: N/A

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon SI. His risk 
factors noted at that time included age, male gender, SI, recent 
SA, hopelessness, insomnia, recent breakup with his girlfriend. 
___ risk factors were addressed during hospitalization 
via medication management, psychotherapeutic intervention, and 
aftercare coordination.  The patient is being discharged with 
many protective risk factors, including Help-seeking nature, 
strong social supports, no prior history of self-injurious 
behavior/suicide attempts/substance abuse, no access to lethal 
weapons, future
oriented. Given the above, my overall assessment is that the 
patient's suicide risk at time of discharge is moderate. 

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment Disorder with Depressed Mood vs. Unspecified Anxiety
Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___